US06638926B2
(1H-Indazol-3-yl)-[3-(2-trifluoromethyl-phenyl)-isoquinoline-1-yl]-amine (V-2)
A solution of 1-chloro-3-(2-trifluoromethyl-phenyl)-isoquinoline (100 mg, 0.326 mmol) and 1H-indazol-3-ylamine (86 mg, 0.651 mmol) in ethanol (3 mL) was heated at 160 C and the solvent evaporated with a stream of nitrogen. The remaining oil was then heated at 160 C for 18 hours under nitrogen. The resulting melt was dissolved in 5% methanol:dichloromethane (50 mL), washed with saturated aqueous sodium bicarbonate (1×25 mL) then dried over magnesium sulfate. Purification by silica gel chromatography (25% to 50% hexane:ethyl acetate) afforded V-2 as a yellow solid (35 mg, 27%). 1H NMR (500 MHz, d6-DMSO) δ9.78 (br s, 1H), 8.62 (d, 1H), 7.9-7.85 (m, 1H), 7.78-7.72 (m, 1H), 7.70-7.68 (m, 1H), 7.65-7.62 (m, 1H), 7.60-7.55 (m, 1H), 7.52-7.45 (m, 3H), 7.41-7.38 (m, 1H), 7.28-7.25 (m, 1H), 7.18 (s, 1H), 6.95-6.92 (m, 1H), 5.76 (s, 1H); LC−MS (ES+) m/e=405.18 (M+H); HPLC-Method D Rt 2.74 min.

reactant | 1-chloro-3-(2-trifluoromethyl-phenyl)-isoquinoline | 0.326 mmol, 100 mg | ClC1=NC(=CC2=CC=CC=C12)C1=C(C=CC=C1)C(F)(F)F | C16H9ClF3N
reactant | 1H-indazol-3-ylamine | 0.651 mmol, 86 mg | N1N=C(C2=CC=CC=C12)N | C7H7N3
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (1H-Indazol-3-yl)-[3-(2-trifluoromethyl-phenyl)-isoquinoline-1-yl]-amine | 35 mg, 27% | N1N=C(C2=CC=CC=C12)NC1=NC(=CC2=CC=CC=C12)C1=C(C=CC=C1)C(F)(F)F | C23H15F3N4
